US03991072
To a stirred and cooled (-10° C.) solution of 3.7 parts of (+)-1-(1-phenylethyl)-1H-imidazole-5-carboxamide in 50 parts of pyridine are added dropwise, during a 15 minute period, 3.4 parts of phosphoryl chloride. The mixture is allowed to reach room temperature; then heated in a boiling water-bath for 1.5 hrs. The reaction mixture is cooled to room temperature and poured onto 250 parts of ice-water. The precipitated product is filtered off, washed with water and dissolved in trichloromethane. The solution is dried, filtered and evaporated. The solid residue is crystallized from a mixture of 2,2'-oxybispropane and ethanol, yielding (+)-1-(1-phenylethyl)-1H-imidazole-5-carbonitrile; m.p. 129.3° C; [α] = +40.56° (c = 1% CH3OH).

reactant | (+)-1-(1-phenylethyl)-1H-imidazole-5-carboxamide | C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)N | C12H13N3O
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (+)-1-(1-phenylethyl)-1H-imidazole-5-carbonitrile | C1(=CC=CC=C1)C(C)N1C=NC=C1C#N | C12H11N3
